US07511146B2
A mixture of 1 g of 3,4-difluoro-1,2-phenylenediamine (6.94 mmol) and 0.983 g of chloro-acetic acid (10.41 mmol, 1.5 eq) in 13 mL of 4N aqueous HCl was heated to 100° C. for 3 h. The mixture was poured onto ice (10 g), neutralized by the addition of NH4OH and extracted with three 30 mL portions of ethyl acetate. The organic extracts were combined and dried over Na2SO4, filtered and concentrated by rotary evaporation to give 1.28 g of 2-chloromethyl-5,6-difluoro-1H-benzoimidazole as a brown solid. 1H NMR (300 MHz, CDCl3/CD3OD): δ 7.30-7.25 (m, 2H), 4.68 (s, 2H); MS (ESI): Calcd m/z for C8H5ClF2N2.H+=203.1. Found m/z=203.2/205.2 [(M+1)+/(M+3)+].

reactant | 3,4-difluoro-1,2-phenylenediamine | 6.94 mmol, 1 g | FC=1C(=C(C=CC1F)N)N | C6H6F2N2
reactant | chloro-acetic acid | 10.41 mmol, 0.983 g, 1.5 eq | ClCC(=O)O | C2H3ClO2
reactant | NH4OH | [NH4+].[OH-]
solvent | HCl | 4N, 13 mL | Cl | ClH
product | 2-chloromethyl-5,6-difluoro-1H-benzoimidazole | 1.28 g | ClCC1=NC2=C(N1)C=C(C(=C2)F)F | C8H5ClF2N2
